Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
hypertensive urgency
 
Major Surgical or Invasive Procedure:
None this hospitalization

 
History of Present Illness:
___ y/o F with history of NIDDM, HLD, HTN (diagnosed at age ___ 
who presents with chest pain, found to be in hypertensive 
urgency. Patient was in her usual state of health until ___ on 
___ when she developed left sided chest pain, chest 
pressure, and was diaphoretic. 

In the ED, patient had initial BP of 224/114. She received PO 
labetalol 100mg along with 10mg IV labetalol. Her EKG showed 
NSR, no acute ST changes. She had labs drawn (see below), and 
transferred to the floor with BP of 170/91.

On the floor, the patient notes that she had sudden onset left 
sided chest pain this morning that radiated posteriorly into her 
scapula. It occurred while she was at rest and lasted for about 
10 minutes and resolved on its own. It was not positional in 
nature. She did have associated diaphoresis and SOB with it that 
have now resolved. The patient does note that this same pain 
occurred in ___ when she was evaluated in the ED but never had 
a known cause found.  

She also notes that she recently had a viral URI with cough, 
runny nose, and muscle aches that has now improved (3 weeks 
ago). She has not had the flu shot this year but no longer has 
these symptoms. She believes she had a fever had her doctor's 
office today but is not sure of the temperature reading. She 
also endorses nausea and dry heaving today though no abdominal 
pain, diarrhea, or dysuria. She is concerned that her symptoms 
are from hyperthyroidism as thyroid issues run in her family.  
 
Review of systems:  
(+) Per HPI  
(-) Denies recent weight loss or gain. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath. Denies diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias.  

 
Past Medical History:
NIDDM  
HLD  
HTN (diet controlled baseline sbp 130s)
Alpha thalassemia
Hx of gastric ulcers
Hemorrhoids
 
Social History:
___
Family History:
Maternal grandmother with MI at unknown age  
Mother with MI in her ___  
Mother with hypothyroidism  
Sister with hyperthyroidism  
No known hx of malignancy or adrenal adenoma/pheochromocytoma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
Vital Signs: Temp 99.4, BP 171/95, HR 78, RR 18, 97% RA  
 General: Alert, oriented, no acute distress, obese  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Chest: Non-tender to palpation  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM:
=========================
98.5, 146-148/78-86, 78-79, 18, 98-100% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes
Neuro: No focal deficits 

 
Pertinent Results:
ADMISSION LABS:
===================
___ 04:00PM BLOOD WBC-6.8 RBC-5.87* Hgb-12.5 Hct-39.9 
MCV-68* MCH-21.3* MCHC-31.3* RDW-17.2* RDWSD-37.2 Plt ___
___ 03:56PM BLOOD Na-138 K-3.2* Cl-99
___ 04:00PM BLOOD Glucose-170* UreaN-12 Creat-0.5 Na-137 
K-3.5 Cl-100 HCO3-23 AnGap-18
___ 10:57PM BLOOD ALT-63* AST-36 AlkPhos-128* TotBili-0.3
___ 04:00PM BLOOD cTropnT-<0.01
___ 10:57PM BLOOD CK-MB-1 cTropnT-<0.01
___ 04:00PM BLOOD Cholest-219*
___ 04:00PM BLOOD Triglyc-306* HDL-37 CHOL/HD-5.9 
LDLcalc-121
___ 04:00PM BLOOD TSH-0.64

Imaging:
==================
___: CXR
No acute intrathoracic process.

Microbiology:
==================
___ URINE URINE CULTURE-PENDING 

DISCHARGE LABS:
==================
___ 06:53AM BLOOD WBC-6.5 RBC-5.37* Hgb-11.4 Hct-36.6 
MCV-68* MCH-21.2* MCHC-31.1* RDW-16.3* RDWSD-37.5 Plt ___
___ 06:53AM BLOOD Plt ___
___ 06:53AM BLOOD Glucose-228* UreaN-11 Creat-0.6 Na-136 
K-3.4 Cl-100 HCO3-24 AnGap-15
___ 10:57PM BLOOD ALT-63* AST-36 AlkPhos-128* TotBili-0.3
___ 06:53AM BLOOD %HbA1c-9.4* eAG-223*
___ 04:00PM BLOOD Triglyc-306* HDL-37 CHOL/HD-5.9 
LDLcalc-___ y/o F with history of Type 2 DM, HLD, HTN who presented to 
___ on ___ with diaphoresis and chest pain, found to 
have hypertensive urgency admitted to ___ for further workup 
and stabilization.

# Hypertensive Urgency
Patient presenting to ___ with SBP >180/100 and chest pain but 
without clear evidence of end-organ dysfunction. She has had 
hypertension since the age of ___, and has managed with a 
DASH-like diet at home. However, patient has had paroxysmal 
spells (most recently in ___ of hypertension that had to be 
managed urgently. She has a significant family history of 
metabolic syndrome and she has PCOS, but there is no clear 
trigger for this particular event. As per the patient, she has 
had workup in the past for renal artery stenosis and 
pheochromocytoma which were both negative. However, she has not 
seen an endocrinologist. 

At the time of admission to medicine, BP remained stable and 
since the event appears to have been acute, and she is otherwise 
young without significant comorbidities (and has diabetes), 
aimed for <140/80 as an outpatient. Although initially started 
on captopril and labetalol, these were transitioned to losartan 
and chlorthalidone on ___. TSH WNL, T4 pending at 
discharge. Patient was counseled extensively both on importance 
of adhering to her DASH diet, along with need for outpatient lab 
followup and blood pressure monitoring after initiation of 
chlorthalidone and losartan. Losartan was initiated since 
patient has cough on lisinopril. She was set up with 
endocrinology followup after discharge, and familial syndromes 
such as MEN versus pheochromocytoma versus hypertension ___ PCOS 
or other familial cause can be considered. Patient is a 
naturopathic physician, and at home takes only a "tincture" for 
treatment of hx of GERD. However, this contains no licorice or 
other components which can contribute to hypertension. Patient 
was monitored on telemetry and had no events on telemetry, EKGs 
were without ischemic changes and Troponins x 2 were negative. 
At the time of discharge patient was chest pain free and 
asymptomatic.

# Diabetes Mellitus, Uncontrolled without Complication
Patient notes metformin has not worked appropriately for blood 
glucose control and was poorly tolerated. A1c of 9.4 here at 
___. Unclear if this is DMII or DMI. She received insulin 
sliding scale in house but only required approximately 4 units 
and thus lantus was not initiated. However, patient was 
counseled on importance of close followup with PCP and 
potentially starting alternative oral agent for diabetes versus 
starting on insulin. She did not have evidence on her labs of 
DKA/HHNK.
 
# Hyperlipidemia  
Stable. Lipids obtained. Low HDL so can consider fish oil as 
outpatient.

# Alpha thalassemia
Stable. Low MCV, no anemia.

# Hemorrhoidal Bleeding
Patient w/hx of hemorrhoids and was on subq heparin in house. 
She had bright red blood in the toilet in context of 
straining/constipation. A second bowel movement after the first 
had no blood present. She deferred rectal exam, and was 
counseled on red flags of GI bleeding. She will see ___ 
for a previously scheduled GI appointment on ___ and will 
attend.
 
FULL CODE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1. Losartan Potassium 50 mg PO DAILY 
RX *losartan 50 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0
3. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hypertensive Urgency
Diabetes Mellitus, Uncontrolled without Complication

Secondary:
Alpha thalassemia
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dr. ___,

___ came to ___ due to chest 
pain and sweating. ___ were found to have very elevated blood 
pressure. ___ were initially given labetalol and captopril for 
management of your blood pressure and this was transitioned to 
Losartan (an ___ and Chlorthalidone (thiazide diuretic). Your 
blood pressures prior to leaving ___ were 140-150/80s. As an 
outpatient ___ should see an endocrinologist to discuss further 
workup of your hypertension. It would be good to rule out a 
pheochromocytoma or other cause of hypertension. 

In regards to your diabetes, ___ have a hemoglobin A1c here of 
9.2 which is very elevated. ___ also had glucose in your urine. 
___ required only a few units of sliding scale insulin in the 
hospital, but should discuss trying a different oral agent for 
diabetes or perhaps initiating lantus (long acting insulin) for 
better control of your diabetes. 

Please see your PCP within the next ___ hours.

It has been a pleasure caring for ___ and we wish ___ the best.

As ___ requested, ___ will receive a copy of your labs.

Prior to discharge ___ had a small amount of rectal bleeding 
that resolved. ___ deferred a rectal exam, but know to see your 
GI doctor on ___. If ___ have any increased bleeding, 
shortness of breath, or other symptoms that concern ___ please 
immediately seek medical care.

Kind regards,
Your ___ Team
 
Followup Instructions:
___